US08877774B2
Step 4. (3-(8-(1,3-Dioxolan-2-yl)octyloxy)phenyl)(phenyl)methanamine
To a stirred solution of 2-(8-(3-(azido(phenyl)methyl)phenoxy)octyl)-1,3-dioxolane (1.11 g, 2.71 mmol) in THF (15 mL) at −78° C. under an atmosphere of nitrogen, a solution of lithium aluminium hydride (2.0M in THF, 2.8 mL, 5.60 mmol) was added drop wise. After stirring the reaction at −78° C. for 1 hour, the reaction mixture was warmed up to 0° C. for 1 hour. The reaction mixture was quenched with water (304 mL), 2M sodium hydroxide (304 mL) and water (304 mL×3). Anhydrous magnesium sulphate and ethyl acetate were added, and the reaction mixture filtered and concentrated under reduced pressure. The crude material was purified by column chromatography eluting with 100% iso-hexane to 100% DCM to 25:1 DCM:methanol (0.63 g, 39% based on (3-(8-(1,3-dioxolan-2-yl)octyloxy)phenyl)(phenyl)methanol).

reactant | 2-(8-(3-(azido(phenyl)methyl)phenoxy)octyl)-1,3-dioxolane | 2.71 mmol, 1.11 g | N(=[N+]=[N-])C(C=1C=C(OCCCCCCCCC2OCCO2)C=CC1)C1=CC=CC=C1 | C24H31N3O3
reactant | lithium aluminium hydride | 5.60 mmol, 2.0M, 2.8 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | (3-(8-(1,3-Dioxolan-2-yl)octyloxy)phenyl)(phenyl)methanamine | O1C(OCC1)CCCCCCCCOC=1C=C(C=CC1)C(N)C1=CC=CC=C1 | C24H33NO3
